US07982045B2
2′-(Phenoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide
From 0.34 mmol of 2′-aminomethylbiphenyl-2-carboxylic acid ( 3-methylbutyl)amide (precursor 5 c) and phenyl chloroformate, according to the general working procedure followed by extraction with EA and purification by flash chromatography 55 mg of 2′-(phenoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide were obtained as a resin. MS (ES+): m/e=417 (M+1).

reactant | 2′-aminomethylbiphenyl-2-carboxylic acid ( 3-methylbutyl)amide | 0.34 mmol | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN)C | C19H24N2O
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | 2′-(Phenoxycarbonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CNC(=O)OC1=CC=CC=C1)C | C26H28N2O3
